US07662402B2
7.5 g of malononitrile was dissolved in 50 ml of N,N-dimethylformamide and 10.4 g of potassium carbonate was added. The mixture was stirred at room temperature for 1 hour, 10.0 g of 2,2,3,3-tetrafluoropropyl trifluoromethanesulfonate dissolved in 20 ml of N,N-dimethylformamide was added dropwise, and the mixture was stirred overnight. Thereafter, the reaction mixture was poured to water and extracted with diethyl ether. The organic layer was washed successively with water and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography. The resulting fraction was washed with chloroform to obtain 0.08 g of 2,2-bis(2,2,3,3-tetrafluoropropyl)malononitrile (hereinafter, referred to as the present compound (50)).

reactant | malononitrile | 7.5 g | C(CC#N)#N | C3H2N2
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,3,3-tetrafluoropropyl trifluoromethanesulfonate | 10.0 g | FC(S(=O)(=O)OCC(C(F)F)(F)F)(F)F | C4H3F7O3S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,2-bis(2,2,3,3-tetrafluoropropyl)malononitrile | 0.08 g | FC(CC(C#N)(C#N)CC(C(F)F)(F)F)(C(F)F)F | C9H6F8N2
